US07396849B2
A solution of (6-bromo-thiochroman-4-yl-oxy)-tert-butyl-dimethyl-silane (Intermediate-K3) (2.74 g, 7.64 mmol) in TH F (30 mL) was treated with nBuLi (3.1 mL of a 2.5 M soln) at −78° C. for 30 m. A solution of 2-(tert-butyl-dimethyl-silanyl)-5-formyl-imidazole-1-sulfonic acid dimethylamide (see the General Method above, Intermediate K1) (2.42 g, 7.63 mmol) in THF (10 mL) was added via cannula. After 15 m, the reaction mixture was allowed to warm to rt for 16 h. The mixture was quenched with water, washed with brine and dried over Na2SO4. The solvent was removed and the residue was purified by chromatography on silica gel with 20% EtOAc:hexane to afford 2-(tert-butyl-dimethyl-silanyl)-5-{[4-(tert-butyl-dimethyl-silanyloxy)-thiochroman-6-yl]-hydroxy-methyl}-imidazole-1-sulfonic acid dimethylamide (Intermediate K4) as an oil, 4.12 g.

reactant | (6-bromo-thiochroman-4-yl-oxy)-tert-butyl-dimethyl-silane | 7.64 mmol, 2.74 g | BrC=1C=C2C(CCSC2=CC1)O[Si](C)(C)C(C)(C)C | C15H23BrOSSi
reactant | nBuLi | [Li]CCCC
reactant | 2-(tert-butyl-dimethyl-silanyl)-5-formyl-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C(=NC=C1C=O)[Si](C)(C)C(C)(C)C)C | C12H23N3O3SSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyl-dimethyl-silanyl)-5-{[4-(tert-butyl-dimethyl-silanyloxy)-thiochroman-6-yl]-hydroxy-methyl}-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C(=NC=C1C(O)C=1C=C2C(CCSC2=CC1)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C)C | C27H47N3O4S2Si2
